*** SPICE deck for cell xor-gate{lay} from library xor-gate
*** Created on Mon Sep 25, 2023 20:41:36
*** Last revised on Fri Sep 29, 2023 14:17:18
*** Written on Fri Sep 29, 2023 14:20:05 by Electric VLSI Design System, version 9.07
*** Layout tech: mocmos, foundry MOSIS
*** UC SPICE *** , MIN_RESIST 4.0, MIN_CAPAC 0.1FF

*** TOP LEVEL CELL: xor-gate{lay}
Mnmos@0 net@1 A gnd gnd N L=0.35U W=1.4U AS=4.349P AD=1.593P PS=11.375U PD=5.075U
Mnmos@1 net@3 B gnd gnd N L=0.35U W=1.4U AS=4.349P AD=1.593P PS=11.375U PD=5.075U
Mnmos@2 F B net@14 gnd N L=0.35U W=1.4U AS=1.286P AD=1.286P PS=3.937U PD=3.937U
Mnmos@3 net@14 net@1 F gnd N L=0.35U W=1.4U AS=1.286P AD=1.286P PS=3.937U PD=3.937U
Mnmos@4 gnd A net@14 gnd N L=0.35U W=1.4U AS=1.286P AD=4.349P PS=3.937U PD=11.375U
Mnmos@5 net@14 net@3 gnd gnd N L=0.35U W=1.4U AS=4.349P AD=1.286P PS=11.375U PD=3.937U
Mpmos@0 net@5 B F vdd P L=0.35U W=1.4U AS=1.286P AD=0.613P PS=3.937U PD=2.275U
Mpmos@1 vdd net@1 net@5 vdd P L=0.35U W=1.4U AS=0.613P AD=4.961P PS=2.275U PD=11.462U
Mpmos@2 net@8 A vdd vdd P L=0.35U W=1.4U AS=4.961P AD=0.482P PS=11.462U PD=2.363U
Mpmos@3 F net@3 net@8 vdd P L=0.35U W=1.4U AS=0.482P AD=1.286P PS=2.363U PD=3.937U
Mpmos@4 net@3 B vdd vdd P L=0.35U W=1.4U AS=4.961P AD=1.593P PS=11.462U PD=5.075U
Mpmos@5 net@1 A vdd vdd P L=0.35U W=1.4U AS=4.961P AD=1.593P PS=11.462U PD=5.075U

* Spice Code nodes in cell cell 'xor-gate{lay}'
VDD VDD 0 DC 3.3
VGND GND 0 DC 0
*
*For logic simulation:
VA A 0 PULSE(3.3 0 0 2n 3n 250n 500n)
VB B 0 PULSE(3.3 0 0 2n 3n 125n 250n)
*
*For measurements:
*VA A 0 DC 0
*VB B 0 PULSE(3.3 0 0 100p 100p 125n 250n)
*
.TRAN 0 1000n
.meas risetime TRIG v(F)=0.33 TD=0 rise=1 TARG v(F)=2.97 TD=0 rise=1
.meas falltime TRIG v(F)=2.97 TD=0 fall=1 TARG v(F)=0.33 TD=0 fall=1
.meas tpHL TRIG v(B)=1.65 TD=0 rise=1 TARG v(F)=1.65 TD=0 rise=1
.meas tpLH TRIG v(B)=1.65 TD=0 fall=1 TARG v(F)=1.65 TD=0 fall=1
.meas propagationdelay param=(tpHL+tpLH)/2
.include Z:\MOS_model.txt
.END
